US04289876
1-Nitro-2-(2-propynylamino)-2-{2-[(3-chloro-2-pyridyl)methylthio]ethylamino}ethylene (BL-6075)
A solution of 1-nitro-2-methylthio-2-{2-[(3-chloro-2-pyridyl)methylthio]ethylamino}ethylene (0.61 g; 1.91 mmoles) [prepared according to the procedure described in U.S. Pat. No. 4,024,260] and propargylamine (1.72 g; 31.2 mmoles) in acetonitrile (15 ml) was stirred and heated to reflux temperature under a positive pressure of nitrogen for 7 hours then allowed to stand at ambient temperature for 16 hours. The reaction mixture was filtered and 346 mg of product collected. Recrystallization from methanol with activated carbon treatment gave the title compound; mp 171°-171.5°.

reactant | 1-nitro-2-methylthio-2-{2-[(3-chloro-2-pyridyl)methylthio]ethylamino}ethylene | 1.91 mmoles, 0.61 g | [N+](=O)([O-])C=C(NCCSCC1=NC=CC=C1Cl)SC | C11H14ClN3O2S2
reactant | propargylamine | 31.2 mmoles, 1.72 g | C(C#C)N | C3H5N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-Nitro-2-(2-propynylamino)-2-{2-[(3-chloro-2-pyridyl)methylthio]ethylamino}ethylene | [N+](=O)([O-])C=C(NCCSCC1=NC=CC=C1Cl)NCC#C | C13H15ClN4O2S
